US05194442
Trans-5-(2-oxo-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
3.24 g (20 mmol) of 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin and 9.60 g (61 mmol) of N-trimethylsilyl-2-oxo-pyrrolidine are dissolved in 8 ml of dry THF and, while cooling, 6.31 g (20 mmol) of tetrabutylammonium fluoride trihydrate are added in one portion, and the mixture is heated at 100° C. for several hours (TLC check). The mixture is hydrolyzed with ice-water and extracted several times with diethyl ether. The combined diethyl ether extracts are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration and evaporation of the solvent in vacuo, the residue is crystallized in diisopropyl ether/ethyl acetate. Crystals of melting point 151°-153° C. are obtained.

reactant | 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin | 20 mmol, 3.24 g | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
reactant | N-trimethylsilyl-2-oxo-pyrrolidine | 61 mmol, 9.60 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
reactant | tetrabutylammonium fluoride trihydrate | 20 mmol, 6.31 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Trans-5-(2-oxo-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | O=C1N(CCC1)[C@H]1[C@@H](CCOC2=C1C=CC=C2)O | C14H17NO3
